US08859611B2
A mixture of 1-fluoro-4-nitrobenzene (10 g, 70.9 mmol), 2-methyl-1H-imidazole (5.8 g, 70.9 mmol), and Cs2CO3 (34.7 g, 106.4 mmol) in degassed DMF (200 mL) was heated at 100° C. under nitrogen overnight. When TLC indicated that 1-fluoro-4-nitrobenzene was consumed, the reaction mixture was concentrated in vacuo. The residue was diluted with water (300 mL), and a grey precipitate was formed and was isolated to give 2-methyl-1-(4-nitrophenyl)-1H-imidazole (12.8 g, yield 89%).

reactant | 1-fluoro-4-nitrobenzene | 70.9 mmol, 10 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-methyl-1H-imidazole | 70.9 mmol, 5.8 g | CC=1NC=CN1 | C4H6N2
reactant | Cs2CO3 | 106.4 mmol, 34.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2-methyl-1-(4-nitrophenyl)-1H-imidazole | 12.8 g, yield 89% | CC=1N(C=CN1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2
